US08440689B2
A. (R)-Methyl 6-(1-amino-4-methyl-1-oxopentan-2-ylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate
A mixture of methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (120.7 mg, 0.330 mmol), (R)-2-amino-4-methylpentanamide (67.1 mg, 0.515 mmol), and Et3N (0.1 mL, 0.717 mmol) in DMF (4 mL) was stirred at 60° C. for 14 h. Saturated aq NaHCO3 (20 mL) was added to the mixture, which was subsequently extracted with EtOAc (2×30 mL). The organic layers were washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), were dried over anhydrous Na2SO4, and filtered (DM1020). The filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, hexanes/EtOAc=1/2) and then triturated with IPE to give the title compound (76 mg, 50%).

reactant | methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.330 mmol, 120.7 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C15H12ClN3O4S
reactant | (R)-2-amino-4-methylpentanamide | 0.515 mmol, 67.1 mg | N[C@@H](C(=O)N)CC(C)C | C6H14N2O
reactant | Et3N | 0.717 mmol, 0.1 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-Methyl 6-(1-amino-4-methyl-1-oxopentan-2-ylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 76 mg, 50% | NC([C@@H](CC(C)C)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C)=O | C21H25N5O5S
